US05723075
4,4'-di(benzylthiocarbamoylamino)benzanilide
4,4'-Diaminobenzanilide (0.568 g, 2.5 mM) was dissolved in 20 ml of acetone, and 2 equivalents of benzylisothiocyanate (0.746 g, 5 mM) was added. The mixture was stirred at 55° C. for 10 minutes. After cooling, the reaction mixture was filtered, and washed with acetone/n-hexane to obtain 0.57 g (43.4% yield) of a colorless crystal of compound A-16.

reactant | 4,4'-Diaminobenzanilide | 2.5 mM, 0.568 g | NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C=C1 | C13H13N3O
reactant | benzylisothiocyanate | 5 mM, 0.746 g, 2 equivalents | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4,4'-di(benzylthiocarbamoylamino)benzanilide | 0.57 g, 43.4% yield | C(C1=CC=CC=C1)NC(=S)NC1=CC=C(C(=O)NC2=CC=C(C=C2)NC(NCC2=CC=CC=C2)=S)C=C1 | C29H27N5OS2
